US08865736B2
2-Hydroxy-3-Hexoxy-benzamide
A mixture of 2-fluoro-3-Hexoxy-benzamide (0.30 g, 1.2 mmol), copper sulfate (0.10 g, 0.4 mol) copper (0.015 g, 0.2 mmol) and NaOH (2.5 ml) was stirred at 100° C. for 14 hrs. After completion of reaction the reaction mixture was acidified and extracted with EtOAc. The obtained crude compound was purified by column chromatography on silica (230-4000 using ethyl acetate/hexane (50:50) as the eluent to provide the title compound as yellow (0.15 g, 50%). 1H NMR (DMSO-d6, 400 MHz with D2O): δ 3.9 (s, 3H), 7.11-7.18 (m, 2H), 7.53-7.58 (m, 1H). MS ES+ (229.0 M+2H adduct). HPLC (Method 7) Rt=11.16 min.

reactant | 2-fluoro-3-Hexoxy-benzamide | 1.2 mmol, 0.30 g | FC1=C(C(=O)N)C=CC=C1OCCCCCC | C13H18FNO2
reactant | NaOH | 2.5 ml | [OH-].[Na+]
catalyst | copper sulfate | 0.4 mol, 0.10 g | S(=O)(=O)([O-])[O-].[Cu+2]
product | 2-Hydroxy-3-Hexoxy-benzamide | OC1=C(C(=O)N)C=CC=C1OCCCCCC | C13H19NO3
